US08486952B2
To a solution of 2-chloro-4-(3,3-difluoroazetidin-1-yl)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation Ha) (170 mg, 0.500 mmol) and 4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyaniline (Preparation F) (146 mg, 0.650 mmol) in THF (1498 μL) was added Acetic Acid (1498 μL). The resulting mixture was heated to 100° C. and stirred overnight. The reaction mixture was then concentrated in vacuo. MeOH was added to the residue which resulted in a suspension. This was filtered to give a solid which was taken up in hot MeOH and filtered. The filtrate was then concentrated in vacuo to give N-(4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyphenyl)-4-(3,3-difluoroazetidin-1-yl)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-amine (racemate) (130 mg, 49.22% yield) as a yellow solid. LC-MS (M+H)+=528.1. 1H NMR (500 MHz, MeOD) δ ppm 8.81 (1H, s), 7.65 (1H, d, J=8.55 Hz), 7.59 (1H, s), 7.29-7.36 (2H, m), 7.11-7.21 (3H, m), 4.87-4.88 (4H, m), 4.47 (1H, s), 3.91 (3H, s), 3.11-3.19 (1H, m), 2.99-3.08 (1H, m), 2.77 (1H, dddd, J=13.47, 8.96, 4.43, 4.27 Hz), 2.13 (1H, dq, J=8.89, 6.70 Hz).

reactant | 2-chloro-4-(3,3-difluoroazetidin-1-yl)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.500 mmol, 170 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CC(C2)(F)F | C16H13ClF3N3
reactant | 4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyaniline | 0.650 mmol, 146 mg | ClC1=NN(C=N1)C1=C(C=C(N)C=C1)OC | C9H9ClN4O
reactant | Acetic Acid | 1498 μL | C(C)(=O)O | C2H4O2
solvent | THF | 1498 μL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | N-(4-(3-chloro-1H-1,2,4-triazol-1-yl)-3-methoxyphenyl)-4-(3,3-difluoroazetidin-1-yl)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-amine | 130 mg, 49.22% yield | ClC1=NN(C=N1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CC(C2)(F)F)OC | C25H21ClF3N7O
